US04443245
A mixture of 3.33 g of N-(2-allyloxyphenylsulfonyl)phenylcarbamate and 1.4 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 30 ml of absolute dioxane is heated to reflux for 1/2 hour, then cooled to 20° C., filtered, evaporated to dryness, and the residue is crystallised from ether. Recrystallisation from ethyl acetate/petroleum ether (1:1) yields 2 g of N-(2-allyloxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea with a melting point of 146°-147° C.

reactant | N-(2-allyloxyphenylsulfonyl)phenylcarbamate | 3.33 g | C(C=C)OC1=C(C=CC=C1)S(=O)(=O)N(C([O-])=O)C1=CC=CC=C1
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.4 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(2-allyloxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 2 g | C(C=C)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C15H17N5O5S
